US05391566
Step A: Preparation of 4-tert-butyldimethylsilyloxy-3-propylbenzyl bromide
To a solution of 1.00 g (3.57) of 4-tert-butyldimethylsilyloxy-3-propylbenzyl alcohol and 1.12 g (4.00 mmol) of triphenylphosphine in 10 mL methylene chloride was added 1.42 g (4.00 mmol) of carbon tetrabromide in portions as the reaction mixture was magnetically stirred at 0°-5° C. After the addition was complete, the ice-water bath was removed and the reaction was stirred for an additional 30 minutes and allowed to warm to room temperature. The methylene chloride was removed in vacuo, and the residue was applied to a silica gel flash chromatography column and eluted with 5% EtOAc-hexane. The purified fractions were combined, evaporated and dried in vacuo to afford 1.10 g (90%) of the title compound.

reactant | 4-tert-butyldimethylsilyloxy-3-propylbenzyl alcohol | 1.00 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(CO)C=C1)CCC | C16H28O2Si
reactant | triphenylphosphine | 4.00 mmol, 1.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 4.00 mmol, 1.42 g | C(Br)(Br)(Br)Br | CBr4
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-tert-butyldimethylsilyloxy-3-propylbenzyl bromide | 1.10 g, 90% | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(CBr)C=C1)CCC | C16H27BrOSi
